US05998439
Combine piperidine-4-carboxylic acid (500 g), water (4.2 L), t-butanol (4 L), and 50% aqueous sodium hydroxide solution (386 g). Add portionwise, di-t-butyldicarbonate (930 g). After 20 hours, concentrate the reaction mixture in vacuo to about one half the volume. Slowly add 10% aqueous hydrochloride solution until the pH is about 4. Extract with diethyl ether (3×4 L). Dry the organic layer over MgSO4, filter and evaporate on a steam bath to a volume of about 4 L. Add ethyl acetate (4 L) and evaporate on a steam bath to a volume of about 4 L. Filter and continue to evaporate on a steam bath to a volume of about 2 L. Cool and filter to obtain 1-(t-butoxycarbonyl)piperidine-4-carboxylic acid.

reactant | piperidine-4-carboxylic acid | 500 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | water | 4.2 L | O | H2O
reactant | sodium hydroxide | 386 g | [OH-].[Na+]
reactant | di-t-butyldicarbonate | 930 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butanol | 4 L | C(C)(C)(C)O | C4H10O
product | 1-(t-butoxycarbonyl)piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
